US07495007B2
In a manner similar to the method described in example 24a, E/Z-6-chloro-3-(3-chloro-benzylidene)-5-fluoro-1,3-dihydro-indol-2-one (0.45 g, 1.46 mmol) was reacted with di-tert-butyl-dicarbonate (0.4 g, 1.83 mmol) (Aldrich), triethyl amine (0.5 g, 4.95 mmol) and 4-dimethylaminopyridine (5 mg) in dichloromethane (30 mL) to give E/Z-6-chloro-3-(3-chloro-benzylidene)-5-fluoro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as a yellow solid (Yield: 0.6 g, 100%).

reactant | Z-6-chloro-3-(3-chloro-benzylidene)-5-fluoro-1,3-dihydro-indol-2-one | 1.46 mmol, 0.45 g | ClC1=C(C=C2/C(/C(NC2=C1)=O)=C/C1=CC(=CC=C1)Cl)F | C15H8Cl2FNO
reactant | di-tert-butyl-dicarbonate | 1.83 mmol, 0.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 4.95 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Z-6-chloro-3-(3-chloro-benzylidene)-5-fluoro-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield: 0.6 g, 100% | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC(=C(C=C12)Cl)F)=C/C1=CC(=CC=C1)Cl)=O | C20H16Cl2FNO3
